US04054439
A mixture of 3.0 g. of 3,5-dinitro-4-(dipropylamino)benzaldehyde, 2.0 ml. of 1,2-propanediol, 75 ml. of benzene, and a small amount of p-toluenesulfonic acid was refluxed for about 4 hours, using a Dean-Stark trap to collect the evolved water. The reaction product mixture was cooled and extracted successively with saturated aqueous sodium bicarbonate solution, and brine, and then dried. The drying agent was filtered off and the benzene solution passed through an aluminum oxide column. The eluate was collected and evaporated. A total of 2.2 g. of 4-(4-methyl-1,3-dioxolan-2-yl)-2,6-dinitro-N,N-dipropylaniline was isolated as an oil.

reactant | 3,5-dinitro-4-(dipropylamino)benzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=C(C1N(CCC)CCC)[N+](=O)[O-] | C13H17N3O5
reactant | 1,2-propanediol | C(C(C)O)O | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(4-methyl-1,3-dioxolan-2-yl)-2,6-dinitro-N,N-dipropylaniline | CC1OC(OC1)C1=CC(=C(N(CCC)CCC)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C16H23N3O6
